US08168793B2
To a stirred solution of 3-[5-(3,4-dimethoxy-5-nitro-phenyl)-[1,3,4]oxadiazol-2-yl]-2-trifluoromethyl-pyridine (0.45 g, 1.13 mmol) in dichloromethane (10 mL)) cooled in an ice-water bath was added urea hydrogen peroxide complex (0.23 g, 2.45 mmol) in one portion followed by trifluoroacetic anhydride (0.47 g, 2.24 mmol) dropwise. The resulting mixture was allowed to stir at room temperature overnight and then the insoluble material was filtered off. The filtrate was washed with water and brine, then dried over anhydrous sodium sulphate, filtered and evaporated to leave an off-white solid. Recrystallisation from ethanol afforded 3-[5-(3,4-dimethoxy-5-nitro-phenyl)-[1,3,4]oxadiazol-2-yl]-2-trifluoromethyl-pyridine 1-oxide, 0.39 g (83%).

reactant | 3-[5-(3,4-dimethoxy-5-nitro-phenyl)-[1,3,4]oxadiazol-2-yl]-2-trifluoromethyl-pyridine | 1.13 mmol, 0.45 g | COC=1C=C(C=C(C1OC)[N+](=O)[O-])C1=NN=C(O1)C=1C(=NC=CC1)C(F)(F)F | C16H11F3N4O5
reactant | trifluoroacetic anhydride | 2.24 mmol, 0.47 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 3-[5-(3,4-dimethoxy-5-nitro-phenyl)-[1,3,4]oxadiazol-2-yl]-2-trifluoromethyl-pyridine 1-oxide | COC=1C=C(C=C(C1OC)[N+](=O)[O-])C1=NN=C(O1)C=1C(=[N+](C=CC1)[O-])C(F)(F)F | C16H11F3N4O6
